US05004747
A solution of (E)-3-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)propenoic acid (0.92 g) in thionyl chloride (15 ml) was heated at reflux for 4 hours. The excess thionyl chloride was then removed by distillation and the residual yellow solid was washed with petroleum ether (b.p. 40°-60° C.), to give (E)-3-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)propenoyl chloride (1.0 g) in the form of a yellow solid, m.p.213°-215° C.

reactant | (E)-3-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)propenoic acid | 0.92 g | CN1C(C2=CC=CC=C2C(=C1/C=C/C(=O)O)C1=CC=CC=C1)=O | C19H15NO3
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | (E)-3-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)propenoyl chloride | 1.0 g | CN1C(C2=CC=CC=C2C(=C1/C=C/C(=O)Cl)C1=CC=CC=C1)=O | C19H14ClNO2
